* SKY130 Four-Quadrant Analog Multiplier
* Topology: Resistive-attenuated Gilbert cell for wide-range linearity
*
* Both X and Y inputs are attenuated through resistive dividers
* before reaching the Gilbert cell core, keeping the transistors
* in their linear operating region.

.subckt multiplier xp xn yp yn outp outn vbias_n vbias_p vcm vdd vss

.param tail_w = 60u
.param tail_l = 1.5u
.param bot_w = 20u
.param bot_l = 1u
.param top_w = 10u
.param top_l = 0.5u
.param rload_val = 14k
.param rdegen_val = 800

* === X input attenuators: ~5:1 (+-300mV to +-60mV) ===
Rax1 xp xp_int 4k
Rax2 xp_int vcm 1k
Rax3 xn xn_int 4k
Rax4 xn_int vcm 1k

* === Y input attenuators: ~2:1 (+-300mV to +-150mV) ===
Ray1 yp yp_int 1k
Ray2 yp_int vcm 1k
Ray3 yn yn_int 1k
Ray4 yn_int vcm 1k

* === Tail current source ===
Xtail tail_node vbias_n vss vss sky130_fd_pr__nfet_01v8 w={tail_w} l={tail_l}

* === Bottom differential pair (attenuated Y input) with degeneration ===
Xbot1 mid1 yp_int src_b1 vss sky130_fd_pr__nfet_01v8 w={bot_w} l={bot_l}
Xbot2 mid2 yn_int src_b2 vss sky130_fd_pr__nfet_01v8 w={bot_w} l={bot_l}
Rdeg1 src_b1 tail_node {rdegen_val}
Rdeg2 src_b2 tail_node {rdegen_val}

* === Top quad (attenuated X input) ===
Xtop1 outn xp_int mid1 vss sky130_fd_pr__nfet_01v8 w={top_w} l={top_l}
Xtop2 outp xn_int mid1 vss sky130_fd_pr__nfet_01v8 w={top_w} l={top_l}
Xtop3 outp xp_int mid2 vss sky130_fd_pr__nfet_01v8 w={top_w} l={top_l}
Xtop4 outn xn_int mid2 vss sky130_fd_pr__nfet_01v8 w={top_w} l={top_l}

* === Load resistors ===
RL1 vdd outp {rload_val}
RL2 vdd outn {rload_val}

.ends multiplier
